US07223791B2
A mixture of methyl 4-[3-(4-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoate (1.50 g), 1 M aqueous sodium hydroxide solution (8 ml), tetrahydrofuran (10 ml) and methanol (10 ml) was stirred at 60° C. for 1 hr. and acidified by adding 1 M hydrochloric acid. The crystals were collected by filtration to give 4-[3-(4-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid (1.31 g, yield 91%). Recrystallization from hexane-tetrahydrofuran gave colorless crystals. melting point: 278–279° C.

reactant | methyl 4-[3-(4-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoate | 1.50 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C(=O)OC)C=C1 | C22H16N2O4
reactant | sodium hydroxide | 1 M, 8 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-[3-(4-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid | 1.31 g, yield 91% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C(=O)O)C=C1 | C21H14N2O4
